US04689338
Using the method of Example 31, 3-amino-4-[2-(phenyl)ethylamino]quinoline was reacted with triethyl orthoformate and formic acid to provide 1-[2-(phenyl)ethyl]-1H-imidazo[4,5-c]quinoline, m.p. 105°-108° C.

reactant | 3-amino-4-[2-(phenyl)ethylamino]quinoline | NC=1C=NC2=CC=CC=C2C1NCCC1=CC=CC=C1 | C17H17N3
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
solvent | formic acid | C(=O)O | CH2O2
product | 1-[2-(phenyl)ethyl]-1H-imidazo[4,5-c]quinoline | C1(=CC=CC=C1)CCN1C=NC=2C=NC=3C=CC=CC3C21 | C18H15N3
